US05889002
6-Chloro-3-hexylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and n-hexyl isothiocyanate by a procedure analogous to the procedure described in example 3Bc-d; mp 207°-209° C.; 1H-NMR (DMSO-d6): δ 0.87 (distorted t, 3H), 1.28 (m, 6H), 1.51 (m, 2H), 3.17 (q, 2H), 7.05 (s, 1H), 7.30 (br. s, 1H), 11.01 (s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | n-hexyl isothiocyanate | CCCCCCN=C=S | C7H13NS
product | 6-Chloro-3-hexylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NCCCCCC | C11H16ClN3O2S2
